* D:\Engineering\LTSPICE\Analog Project\power.asc
V2 N004 N007 SINE(0 220 50)
R2 N005 N004 2.6
R4 N001 N008 200k
R5 N009 N008 560
R6 N015 N014 1k
R7 N013 N016 10
R8 N003 5V 100
D1 N005 N001 1N4007
D2 N007 N001 1N4007
D3 N013 N005 1N4007
D4 N013 N007 1N4007
D5 N010 N012 1N4148
D6 N002 5V 1N5819
D7 N003 N011 QTLP690C
C1 N001 N013 2.2µ
C2 N010 N009 4.7µ
C3 N015 N012 22µ
C4 N013 N011 102n
C5 5V N011 470µ
Q1 N006 N008 N016 0 NPN
Q2 N008 N014 N013 0 NPN
L1 N001 N006 28900
L2 N010 N015 121
L3 N011 N002 121
XU1 N017 N011 N012 N014 PC817 Igain=1m
R9 N017 NC_01 100
D8 N017 5V BZX84C12L
.model D D
.lib C:\Users\ASUS\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASUS\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1
K1 L1 L2 L3 1
.lib PC817.sub
.backanno
.end
