* D:\Engineering\LTSPICE\Analog Project\power_supply.asc
D1 N002 N003 1N4007
D2 N005 N003 1N4007
D3 0 N002 1N4007
D4 0 N005 1N4007
V1 N001 N007 SINE(0 325 50)
C1 N004 0 470µ
L1 N001 N008 235
L2 N005 N002 1
R1 N008 N007 1
R2 N004 N006 500
D5 N006 0 D
R3 N004 N003 5
.model D D
.lib C:\Users\ASUS\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1000ms
K1 L1 L2 1
.backanno
.end
