* D:\Engineering\PYTHON\Analog-Computer\Simulations\Gilbert Multiplier\Gilbert YouTube.asc
R1 N001 N005 270
R2 N002 N004 270
R3 N016 0 270
R4 N003 N009 4.7k
R5 N009 N013 3.3k
R6 N013 0 2.2k
R7 N009 N007 2.2k
R8 N009 N008 2.2k
R9 N013 N012 2.2k
R10 N013 N015 2.2k
Q1 N005 N007 N010 0 2N3904
Q2 N004 N008 N010 0 2N3904
Q3 N005 N008 N011 0 2N3904
Q4 N004 N007 N011 0 2N3904
V1 N001 0 12
V2 N002 0 12
V3 N003 0 12
V4 N006 0 SINE(0 2 1k)
V5 N014 0 SINE(0 3 1k)
Q5 N010 N012 N016 0 2N3904
Q6 N011 N015 N016 0 2N3904
C1 N007 N006 0.1µ
C2 N009 0 0.1µ
C3 N012 N014 0.1µ
C4 0 N013 0.1µ
C5 N008 0 0.1µ
R11 N006 0 50
R12 N014 0 50
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASUS\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10m
.backanno
.end
