* E:\Projects\Analog-Computer\Simulations\Multiplier\Gilbert Cell Multiplier\Gilbert Multiplier V2.asc
R1 N001 V1 270
R2 N001 V2 270
R3 N018 0 270
R4 N001 N009 4.7k
R5 N009 N013 3.3k
R6 N013 0 2.2k
R7 N009 N007 2.2k
R8 N009 N008 2.2k
R9 N013 N012 2.2k
R10 N013 N017 2.2k
Q1 V1 N007 N010 0 2N3904
Q2 V2 N008 N010 0 2N3904
Q3 V1 N008 N011 0 2N3904
Q4 V2 N007 N011 0 2N3904
V1 N001 0 12
V2 NC_01 0 12
V3 NC_02 0 12
V4 N005 0 SINE(0 1.25 1k)
V5 N015 0 SINE(0 1.25 10k)
Q5 N010 N012 N018 0 2N3904
Q6 N011 N017 N018 0 2N3904
C1 N007 N006 1µ
C2 N009 0 1µ
C3 N012 N016 1µ
C4 0 NC_03 1µ
C5 NC_04 0 1µ
R11 N006 0 50
R12 N016 0 50
V6 +V 0 15
V7 0 -V 15
XU1 0 N004 +V -V N006 LM741
R15 N006 N004 1k
R16 N004 N005 10k
XU3 0 N014 +V -V N016 LM741
R17 N016 N014 1k
R18 N014 N015 10k
XU2 N003 N002 +V -V Vout LM741
R14 Vout N002 1k
R13 N002 V1 1k
R19 N003 V2 1k
R20 N003 0 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Naveen\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 3m
.lib LM741.lib
.backanno
.end
