* D:\sem 3\lab\Analog_project\power_supply.asc
L1 V_primary N002 10µ
L2 0 V_secondary 0.03µ
L3 N001 0 0.03µ
V1 V_primary N002 SINE(0 325.2691193 50) Rser=0.001
D1 V_secondary +Vi 1N4007
D2 -Vi V_secondary 1N4007
D3 N001 +Vi 1N4007
D4 -Vi N001 1N4007
C1 +Vi 0 4700µ V=25
C2 0 -Vi 4700µ V=25
XU1 +Vi 0 +12V LM7812-1
XU2 -Vi 0 -12V LM7912
.model D D
.lib C:\Users\VICTUS\AppData\Local\LTspice\lib\cmp\standard.dio
K. L1 L2 L3 1
.tran 0.1
.lib lm7905_7912_7915.lib
.lib regulators.lib
.backanno
.end
